US07851626B2
5-tert-Butylsulfamoyl-4-chloro-2-ethoxybenzoic acid (0.8 g, 24 mmol) in 10 mL of tetrahydrofuran was treated with diazomethane (15 mL, ˜2-3 M in ether, prepared from N-methyl-N-nitroso-p-toluenesulfonamide, Aldrich) at room temperature and stirred for 0.5 h. The mixture was concentrated, and the residue was purified by flash chromatography (silica gel, eluting with 20% ethyl acetate in hexane) to give 0.45 g of 5-tert-butylsulfamoyl-4-chloro-2-ethoxybenzoic acid methyl ester as a solid.

reactant | 5-tert-Butylsulfamoyl-4-chloro-2-ethoxybenzoic acid | 24 mmol, 0.8 g | C(C)(C)(C)NS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)OCC)Cl | C13H18ClNO5S
reactant | diazomethane | ˜2-3 M, 15 mL | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-tert-butylsulfamoyl-4-chloro-2-ethoxybenzoic acid methyl ester | 0.45 g | COC(C1=C(C=C(C(=C1)S(NC(C)(C)C)(=O)=O)Cl)OCC)=O | C14H20ClNO5S
